Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],1.93858664362
[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.46375963385
[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-7.768599668099999
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[O:2],-1.09758389
[H:1].[O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],-4.64304714511
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11]>>[C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11].[H:1][C:2],5.2028074942
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:10].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],1.82603730292
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3]([O:4])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],5.1033111233
[H:12].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.399588378480001
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-2.68675247554
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],3.60748220406
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])=[C:8][H:9]>>[H:7].[O:1]=[C:2]([H:3])[C:4][O:5][C:6]#[C:8][H:9],2.62439404372
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7][O:8][H:9],4.04903445785
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]1([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],0.0734794498703
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.85824406847
[H:1][O:2][C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4](#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3],0.74884825051
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],4.87988772992
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-3.70281983346
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13].[H:10],1.78388962528
[H:10].[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.6631548294
[H:1][C:2](=[C:3]=[O:4])[O:9][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]1=[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[O:9]1,-0.69157306992
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3][O:6][C:7]([H:8])([H:9])[H:10].[O:4][H:5],3.31479166533
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-4.702919770319999
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],1.43921629176
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-2.9374360616
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([O:6][H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.92180517254
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:1]=[C:2]1[O:3][C@@:4]1([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-0.4787017900899999
[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],0.661574835939
